US05442064
1-(4-Cyanophenyl)-4-hydroxymethyl-piperidine
A solution of 12.2 g of 4-hydroxymethyl-piperidine-hydrochloride, 9.8 g of 4-fluorobenzonitrile and 28.3 ml of N-ethyl-diisopropylamine is heated to 140° C. for 4 hours. After cooling, it is chromatographed over silica gel using methylene chloride and methylene chloride/ethyl acetate (1:1) as eluant. After the solvent has been removed under reduced pressure the residue remaining is triturated with petroleum ether and suction filtered. Yield: 5.1 g (29% of theory), Melting point: 148°-150° C.

reactant | 4-hydroxymethyl-piperidine-hydrochloride | 12.2 g | Cl.OCC1CCNCC1
reactant | 4-fluorobenzonitrile | 9.8 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | N-ethyl-diisopropylamine | 28.3 ml | C(C)N(C(C)C)C(C)C | C8H19N
product | 1-(4-Cyanophenyl)-4-hydroxymethyl-piperidine | C(#N)C1=CC=C(C=C1)N1CCC(CC1)CO | C13H16N2O
